US07795481B2
Additional products of the reaction may include partially hydrodechlorinated intermediates; saturated hydrogenated compounds; various partially chlorinated intermediates or saturated compounds; and hydrogen chloride (HCl). For example, wherein the chlorofluoroalkene is 2,3-dichloro-1,1,1,4,4,4-hexafluoro-2-butene (CFC-1316mxx, E- and/or Z-isomers), the compounds formed in addition to E- and/or Z-1,1,1,4,4,4-hexafluoro-2-butene (E- and/or Z-HFC-1336mzz) may include, 1,1,1,4,4,4-hexafluorobutane (HFC-356mff), pentafluorobutane (HFC-1345, different isomers), 2-chloro-1,1,1,4,4,4-hexafluorobutane (HFC-346mdf), E and/or Z-2-chloro-1,1,1,4,4,4-hexafluoro-2-butene (E- and/or Z-HCFC-1326mxz), and 1,1,1,4,4,4-hexafluoro-2-butyne (HFB).

reactant | hydrogen chloride | Cl | ClH
reactant | 2,3-dichloro-1,1,1,4,4,4-hexafluoro-2-butene | ClC(C(F)(F)F)=C(C(F)(F)F)Cl | C4Cl2F6
product | Z-1,1,1,4,4,4-hexafluoro-2-butene | FC(\C=C/C(F)(F)F)(F)F | C4H2F6
